US07439368B2
3-Bromo-4-hydroxybenzoic acid (4-morpholinyl)amide (150 g, 0.524 mol), zinc cyanide (44.23 g, 0.341 mmol), zinc (0.90 g, 14 mmol) and 5% palladium-carbon (44.6 g, 0.021 mmol) are suspended in dimethylacetamide (1500 mL), and bubbled with nitrogen for 35 minutes. After further adding triphenylphosphine (22.0 g, 0.084 mmol) under nitrogen, the reaction mixture is heated at 120° C., and stirred for 4 hours. The mixture is cooled to 25° C., stirred overnight, and the insoluble materials are separated by filtration at room temperature. The active carbon is washed with dimethylacetamide (1V, 150 mL). In the following procedures, an aliquot is used, which is obtained by dividing the solution above equally into five aliquots. The solvent is evaporated so that 2V of dimethylacetamide remains. After adding toluene (180 mL 6V), conc. hydrochloric acid (0.71 w, 21.3 g) is added dropwise at 30° C. or below and bubbled with nitrogen at 25° C. for one hour. Toluene is evaporated until the concentration of hydrogen cyanide becomes 50 ppm or less (20 mmHg). After adding water (5.4V, 163 mL), 37% formalin (17 mL, 2 equiv.) is added at room temperature. The mixture is stirred overnight, and the amount of hydrogen cyanide in the gas phase is confirmed to be 5 ppm on a detection tube. After adding 37% formalin (17 mL, 2 equiv.), the mixture is stirred at 35° C. for one hour, and the amount of hydrogen cyanide in the gas phase is confirmed to be 1 ppm or below on a detection tube. The mixture is ice-cooled (4° C.) for one hour. The crystals are collected by filtration, washed with water (6V, 180 mL), aqueous 5% sodium bicarbonate (1V, 30 ml), and then water (2 v, 60 ml) (pH=7). The wet materials are suspended into acetone (1.5 V, 45 mL), stirred for 0.5 hours under reflux, cooled gradually, stirred at 5° C. for one hour under ice-cooling, and filtered. The resulting crystals are washed with 0.5V of acetone (15 mL), and dried with a conical dryer to give 3-cyano-4-hydroxybenzoic acid (4-morpholinyl)amide (20.06 g, yield: 82.4%, content: 98.1%). Mp: 238-240° C.

reactant | 3-Bromo-4-hydroxybenzoic acid (4-morpholinyl)amide | 0.524 mol, 150 g | N1(CCOCC1)NC(C1=CC(=C(C=C1)O)Br)=O | C11H13BrN2O3
reactant | triphenylphosphine | 0.084 mmol, 22.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formalin | 17 mL, 2 equiv. | C=O | CH2O
reactant | hydrogen cyanide | C#N | CHN
reactant | formalin | 17 mL, 2 equiv. | C=O | CH2O
solvent | dimethylacetamide | 1500 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc cyanide | 0.341 mmol, 44.23 g | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 14 mmol, 0.90 g | [Zn] | Zn
catalyst | palladium-carbon | 0.021 mmol, 44.6 g | [C].[Pd]
solvent | water | 163 mL | O | H2O
product | 3-cyano-4-hydroxybenzoic acid (4-morpholinyl)amide | 20.06 g, yield: 82.4% | N1(CCOCC1)NC(C1=CC(=C(C=C1)O)C#N)=O | C12H13N3O3
